US07666525B2
In a 100 mL three-necked flask were dissolved 1.56 g of 4,4′-dibromobiphenyl, 2.30 g of 4-nitrodiphenylamine, 1.44 g of sodium tert-butoxide and 0.51 g of tris(dibenzylideneacetone) dipalladium in 50 mL of p-xylene, followed by adding 0.3 mL of tri-t-butylphosphine to the resultant mixture, causing a reaction to take place under a nitrogen atmosphere at about 150° C. for about 16 hours. After the reaction was completed, a resultant solution was filtered to remove solid matter, and dissolved in excess chloroform. The salt was filtered using distilled water and the resultant solution was then concentrated. Then, purification was performed through column chromatography and recrystallization, acquiring 1.2 g of N,N′-diphenyl-N,N′-bis(4-nitrophenyl)-1,1-biphenyl-4,4′-diamine in the form of powder. The acquired powder was dissolved in 50 mL ethanol, 1.5 mL hydrazine monohydrate was added thereto with a catalytic amount of 10% Pd/C, followed by refluxing for 24 hours, yielding 0.9 g of N,N′-diphenyl-N,N′-bis(4-aminophenyl)-1,1-biphenyl-4,4′-diamine.

reactant | 4-nitrodiphenylamine | 2.30 g | C1=CC=C(C=C1)NC2=CC=C(C=C2)[N+](=O)[O-] | C12H10N2O2
reactant | sodium tert-butoxide | 1.44 g | CC(C)([O-])C.[Na+]
reactant | tri-t-butylphosphine | 0.3 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 4,4′-dibromobiphenyl | 1.56 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8Br2
solvent | p-xylene | 50 mL | CC=1C=CC(=CC1)C | C8H10
catalyst | tris(dibenzylideneacetone) dipalladium | 0.51 g | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | N,N′-diphenyl-N,N′-bis(4-aminophenyl)-1,1-biphenyl-4,4′-diamine | 0.9 g | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=C(C=C1)N)C1=CC=CC=C1)C1=CC=C(C=C1)N | C36H30N4
